US08242134B2
2-Amino-8-fluoro-3-methyl-1-oxo-1,2-dihydro-isoquinoline-4-carboxylic acid 3-iodo-benzylamide
[8-Fluoro-4-(3-iodo-benzylcarbamoyl)-3-methyl-1-oxo-1H-isoquinolin-2-yl]-carbamic acid tert-butyl ester in acetonitrile (prepared as described in example 8) was heated to remove the tert-butoxy carbonyl group as described in the synthesis of 2-amino-3-methyl-1-oxo-1,2-dihydro-isoquinoline-4-carboxylic acid ((S)-1-phenyl-propyl)-amide to give the title compound.

reactant | [8-Fluoro-4-(3-iodo-benzylcarbamoyl)-3-methyl-1-oxo-1H-isoquinolin-2-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NN1C(C2=C(C=CC=C2C(=C1C)C(NCC1=CC(=CC=C1)I)=O)F)=O)=O | C23H23FIN3O4
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-Amino-8-fluoro-3-methyl-1-oxo-1,2-dihydro-isoquinoline-4-carboxylic acid 3-iodo-benzylamide | IC=1C=C(CNC(=O)C2=C(N(C(C3=C(C=CC=C23)F)=O)N)C)C=CC1 | C18H15FIN3O2
